US08426420B2
i) (S)-2-Cyclobutylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester
To a solution of 5.00 g pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester in 100 ml DMF were added 2.73 g HOAt, 3.85 g EDC, 6.9 ml DIPEA and 1.43 g cyclobutylamine. After 24 h the mixture was diluted with ethyl acetate and subsequently extracted with aqueous LiCl (4% w/w), 0.1 M HCl and saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure to give the crude which was pure enough for the subsequent transformation. Yield: 9.00 g.

reactant | pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | 5.00 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(=O)O | C13H15NO4
reactant | HOAt | 2.73 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 6.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclobutylamine | 1.43 g | C1(CCC1)N | C4H9N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 3.85 g
product | (S)-2-Cyclobutylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O | C17H22N2O3
